US07704996B2
4-(3,3-Difluoro-pyrrolidin-1-yl)piperidine hydrochloride
4-(3,3-difluoro-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (1.77 mmol) is treated with 4N HCl in 1,4-dioxane (6 mL) and stirred at room temperature for 1 h. The reaction mixture is concentrated in vacuo and the resulting residue is used for the next step without further purification.

reactant | 4-(3,3-difluoro-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.77 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(CC1)(F)F | C14H24F2N2O2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 4-(3,3-Difluoro-pyrrolidin-1-yl)piperidine hydrochloride | Cl.FC1(CN(CC1)C1CCNCC1)F | InChI=1S/C9H16F2N2.ClH/c10-9(11)3-6-13(7-9)8-1-4-12-5-2-8;/h8,12H,1-7H2;1H
